US06875765B2
To a solution of 3-[4-amino-2-(2-naphthalen-1-yl-ethoxy)-benzenesulfonylamino]-N-methoxy-N-methyl-succinamic acid tert-butyl ester (300 mg, 0.54 mmol) and acetyl chloride (45 mg, 0.57 mg) in methylene chloride (10 mL) was added triethylamine (58 mg, 0.57 mmol) and the reaction mixture was stirred at room temperature overnight. The solvent was evaporated and the residue was taken up in ethyl acetate (50 mL). The resulting solution was extracted with 0.1N HCl (50 mL) and brine (50 mL), dried (MgSO4), and evaporated to give 3-(4-acetylamino-2-(2-naphthalen-1-yl-ethoxy)-benzenesulfonylamino)-N-methoxy-N-methyl-succinamic acid tert-butyl ester (300 mg) as an amorphous solid.

reactant | 3-[4-amino-2-(2-naphthalen-1-yl-ethoxy)-benzenesulfonylamino]-N-methoxy-N-methyl-succinamic acid tert-butyl ester | 0.54 mmol, 300 mg | C(C)(C)(C)OC(CC(C(=O)N(C)OC)NS(=O)(=O)C1=C(C=C(C=C1)N)OCCC1=CC=CC2=CC=CC=C12)=O | C28H35N3O7S
reactant | acetyl chloride | 45 mg | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.57 mmol, 58 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-acetylamino-2-(2-naphthalen-1-yl-ethoxy)-benzenesulfonylamino)-N-methoxy-N-methyl-succinamic acid tert-butyl ester | 300 mg | C(C)(C)(C)OC(CC(C(=O)N(C)OC)NS(=O)(=O)C1=C(C=C(C=C1)NC(C)=O)OCCC1=CC=CC2=CC=CC=C12)=O | C30H37N3O8S
